US07407955B2
1-methanesulphonyloxymethyl-4-difluoromethoxy-naphthalene
Prepared by reacting (4-difluoromethoxy-naphthalen-1-yl)-methanol with methanesulphonic acid chloride in methylene chloride in the presence of triethylamine.

reactant | (4-difluoromethoxy-naphthalen-1-yl)-methanol | FC(OC1=CC=C(C2=CC=CC=C12)CO)F | C12H10F2O2
reactant | methanesulphonic acid chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-methanesulphonyloxymethyl-4-difluoromethoxy-naphthalene | CS(=O)(=O)OCC1=CC=C(C2=CC=CC=C12)OC(F)F | C13H12F2O4S
